Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I'm being followed by insurance company."
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
For further details surrounding the history and presentation, 
please see OMR, including Dr. ___ admission note dated 
___. 
.
Briefly, this is a ___ year old man with a past history of 
significant head trauma/concussion in ___, ADHD, and PTSD 
symptoms, presenting with increasing paranoia that his neighbor 
is trying to hurt him. Upon initial interview, when asked why he 
is in the hospital, states he had a previous concussion, was an 
EMT in an ambulance when there was a driving accident ___, and 
had a concussion. Previous clinicians told him he had PTSD 
symptoms since this time as he was repeatedly having nightmares 
and flashbacks. He then states he was having issue with woman 
next door who he states had been triggering him by repeatedly 
clicking button to her car, which she knows reminds him of past 
accident. 
.
He states his tire to his car became flat and he knows it was 
her that did it, and later states that she also broke his 
bicycle. He repeats that neighbor is frequently ___ with her 
car, patient begins crying, saying every time he leaves her 
house, he becomes stiff in anxiety because of her. He states he 
can't sleep upstairs with his wife, recognizes sometimes these 
things happen
to him with noises. In past ___ days had been getting worse, 
states in this time his neighbor tried to kill him on his moped, 
then states his rear tire was flat, replaced it, and walked back 
for 5 miles. He said he called the police yesterday about his 
neighbor and they told him to file a harassment suit. 
.
He then went on a tangent that his wife at one time in near past 
visited her parents in ___ for unknown period of time, he was 
very scared that the neighbor was going to come get him while 
being alone. His wife and son are at his parents' house 
currently. He does not want us to call his wife for collateral 
information currently as feels like she would not help.  He 
decided to come in to hospital today because thought it was 
safest day to come.  
.
He then says said the insurance company had been hiring people 
that are following him everywhere (begins crying at this point). 
 He says nobody understands his problem, anything that makes him 
stressed causes stiff muscles. He says problems with neighbor 
occurred for ___ years (before recent accident).  He states he is 
not depressed, not eating because he is scared to eat, when 
asked about sleep, he states he woke up running out of his house 
over the past day, not able to explain what this means.  He says 
has good concentration, denies feelings of guilt, says energy 
level is alright, denies SI or HI at this
time. He denied any manic symptoms, including elevated mood, 
reduced sleep with increased energy, racing thoughts, or 
pressured speech. He denied auditory or visual hallucinations.  
.
ED Course: 

 
Past Medical History:
- Diagnoses: ADHD, ?PTSD  
- Hospitalizations: denies
- Current treaters and treatment: denies
- Medication and ECT trials: Adderall, prazosin, per OMR
gabapentin, Lexapro, sertraline.
- Self-injury: denies
- Harm to others: denies

PAST MEDICAL HISTORY:
- Significant head trauma/concussion from ambulance accident in
___
- Previous hernia repair

 
Social History:
___
Family History:
- Diagnosis: denies
- Suicides: denies 
- Addictions 
 
Physical Exam:
A/B: Appears stated age, dressed casually with good hygiene and 
grooming, calm, cooperative with interviewer, good eye contact, 
no psychomotor agitation or retardation noted
S: normal rate, volume, prosody 
M: "good" 
A: euthymic, full range, appropriate
TC: denies SI/HI, AVH
TP: linear, goal and future oriented
C: awake, alert and oriented x3 
I/J: improved/improved 
 
Pertinent Results:
___ 07:30AM URINE  HOURS-RANDOM
___ 07:30AM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-POS* oxycodn-NEG mthdone-NEG
___ 07:30AM URINE  BLOOD-TR NITRITE-NEG PROTEIN-TR 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-NEG
___ 07:30AM URINE  RBC-9* WBC-1 BACTERIA-NONE YEAST-NONE 
EPI-0
___ 07:30AM URINE  MUCOUS-RARE
___ 06:30AM   GLUCOSE-98 UREA N-19 CREAT-0.9 SODIUM-138 
POTASSIUM-4.0 CHLORIDE-98 TOTAL CO2-26 ANION GAP-18
___ 06:30AM   estGFR-Using this
___ 06:30AM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 06:30AM   WBC-10.4* RBC-5.07 HGB-14.5 HCT-43.3 MCV-85 
MCH-28.6 MCHC-33.5 RDW-12.4 RDWSD-38.2
___ 06:30AM   NEUTS-52.9 ___ MONOS-9.0 EOS-1.1 
BASOS-0.6 IM ___ AbsNeut-5.51 AbsLymp-3.75* AbsMono-0.93* 
AbsEos-0.11 AbsBaso-0.06
___ 06:30AM   PLT COUNT-___riefly, this is a ___ year old married man, previously diagnosed 
with ADHD, history of concussion in ___, no prior suicide 
attempts or psychiatric hospitalizations, who self presented to 
___ with increasing paranoia that his neighbor is trying to 
hurt him and that private investigators from an ___ 
___ were attempting to follow him. History and examination 
on admission were notable for tangential thought process, 
inappropriate laughing, thought content concerning for 
persecutory delusions. Admitted to ___ 4 due to concern of 
decompensated psychosis and for diagnostic clarification, 
evaluation for medications, discharge and safety planning 

#. Legal/Safety: Patient was admitted to ___, upon 
admission, signed a CV, which was accepted. Of note, patient 
stated he no longer wanted to be on the inpatient unit, stating 
he felt it was not useful and signed a 3 day notice that expired 
on day of discharge. Given his consistent denial of suicidal 
ideation, thoughts of self harm, lack of homicidal 
ideation/thoughts of harming others, as well as adequate self 
care, he did not meet criteria to file 7&8b at this time. Of 
note, he maintained his safety throughout his psychiatric 
hospitalization on 15 minute checks and did not require physical 
or chemical restraints. 

#. Delusional disorder: given above symptoms, believe patient 
likely meets criteria  for delusional disorder. Of note, 
collateral was obtained from the family, who confirmed that 
there was some truth to the patient's account, stating he was 
part of an insurance investigation and that his neighbor is 
likely paranoid and somewhat irritable, but stated the patient's 
symptoms were out of proportion to reality. 
- Given concern for psychosis, patient's Adderall was held at 
this time. 
- Given history of concussion, neurology was consulted to rule 
out TBI related neurocognitive contributions to presentation; 
consult team felt underlying neurology etiology was very 
unlikely. 
- After discussion of the risks and benefits, risperidone was 
initiated and titrated to 2 mg po per day. However, patient was 
notably sedated on this medication with difficulty getting out 
of bed and so after discussion of the risks and benefits, Geodon 
20 mg po bid was initiated. He tolerated this medication well 
with no complaints of side effects and improvement of sedation. 
Recommendation is for outpatient team to titrate up as an 
outpatient as clinically indicated. 
- For anxiety and irritability, patient was initially started on 
Neurontin 300 mg po tid prn; however, this was converted to 
Ativan 1 mg po bid prn anxiety which he tolerated well; of note, 
he required minimal doses at this time. 
- Although patient attended few groups, he was compliant in 
meeting with his treatment team and was medication compliant 
throughout his admission. He as an active participant in his 
care. He consistently denied suicidal ideation or thoughts of 
self harm throughout his hospitalization and stated his intent 
to continue the medication and follow up with his outpatient 
psychiatrist and therapist as noted below. 
- Of note, we did discuss the risks and benefits of ongoing 
hospitalization and referral to partial hospitalization, which 
he refused and which he had the capacity to refuse at this time. 

- Collateral was obtained from his family, including his father, 
who stated that although they were not convinced he was ready 
for discharge, they did not feel he posed an imminent risk of 
self or others. 

#. Medical: no acute issues during this hospitalization 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Amphetamine-Dextroamphetamine Dose is Unknown  PO Frequency 
is Unknown 

 
Discharge Medications:
1.  LORazepam 1 mg PO QHS:PRN anxiety/agitation 
RX *lorazepam 1 mg 1 pill by mouth qhs prn Disp #*15 Tablet 
Refills:*0 
2.  ZIPRASidone Hydrochloride 20 mg PO BID 
RX *ziprasidone HCl 20 mg 1 capsule(s) by mouth twice a day Disp 
#*30 Capsule Refills:*0 
3. HELD- Amphetamine-Dextroamphetamine Dose is Unknown  PO 
Frequency is Unknown  This medication was held. Do not restart 
Amphetamine-Dextroamphetamine until your psychosis has improved

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary psychotic disorder

 
Discharge Condition:
A/B: Appears stated age, dressed casually with good hygiene and 
grooming, calm, cooperative with interviewer, good eye contact, 
no psychomotor agitation or retardation noted
S: normal rate, volume, prosody 
M: "good"
A: euthymic
TC: see above 
TP: linear, goal oriented
C: awake, alert and oriented x3 
I/J: improved/improved
 
Discharge Instructions:
You were hospitalized at ___ for delusions of persecution 
(being followed).  

-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Please continue all medications as directed.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.

It was a pleasure to have worked with you, and we wish you the 
best of health.

 
Followup Instructions:
___